US05594021
2-n-Butylbenzo[b]thiophene-3-sulfonyl chloride was prepared by the method of Example 40B with DMF (6.6 mmoles, 0.51 ml), sulfuryl chloride (5.6 mmoles, 0.45 ml) and 2-n-butylbenzo[b]thiophene (3.3 mmoles, 0.63 g). Flash chromatography (2% ethyl acetate/hexanes) provided 0.68 g (71%) of an orange solid.

reactant | DMF | 6.6 mmoles, 0.51 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 5.6 mmoles, 0.45 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-n-butylbenzo[b]thiophene | 3.3 mmoles, 0.63 g | C(CCC)C1=CC2=C(S1)C=CC=C2 | C12H14S
product | 2-n-Butylbenzo[b]thiophene-3-sulfonyl chloride | C(CCC)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C12H13ClO2S2
